US06515011B2
TFA (2.50 mL) was added to a stirred solution of N-(5-chloro-2-{2,2-difluoro-1[(4-methoxyphenyl)amino]ethyl}benzyl)-1-(tert-butoxycarbonyl)-L-prolinamide (0.256 g, 0.49 mmol) in CH2Cl2 (5.0 mL). After 1 h the solvent was evaporated in vacuo and the residue was partitioned between EtOAc and saturated aqueous Na2CO3. The organic layer was dried (Na2SO4) and evaporated in vacuo to give the N-(5-Chloro-2-{2,2-difluoro-1-[(4-methoxyphenyl)amino]ethyl}benzyl)-L-prolinamide (0.207 g) as a gum.

reactant | TFA | 2.50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-(5-chloro-2-{2,2-difluoro-1[(4-methoxyphenyl)amino]ethyl}benzyl)-1-(tert-butoxycarbonyl)-L-prolinamide | 0.49 mmol, 0.256 g | ClC=1C=CC(=C(CNC([C@H]2N(CCC2)C(=O)OC(C)(C)C)=O)C1)C(C(F)F)NC1=CC=C(C=C1)OC | C26H32ClF2N3O4
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | N-(5-Chloro-2-{2,2-difluoro-1-[(4-methoxyphenyl)amino]ethyl}benzyl)-L-prolinamide | 0.207 g | ClC=1C=CC(=C(CNC([C@H]2NCCC2)=O)C1)C(C(F)F)NC1=CC=C(C=C1)OC | C21H24ClF2N3O2
